US04652584
1-(3,5-Dichlorophenyl)-3-methyl-1-butyn-3-ol
A mixture of 25.5 g (0.094 mole) of 3,5-dichloroiodobenzene, 550 ml dry triethylamine, 12 g (0.14 mole) of 2-methyl-2-hydroxy-3-butyne, 0.42 g (0.0019 mole) palladium (II) acetate, and 1 g (0.0038 mole) of triphenylphosphine was heated to reflux under nitrogen for four hours. The resulting mixture was cooled, diluted with ether and washed with two 500-ml portions of 3N hydrochloric acid. The ether layer was separated, dried over anhydrous magnesium sulfate, and evaporated in vacuo to yield the crude product as an oily residue. The purified product was obtained by distillation to yield 7.95 g, bp 115°-125° C./0.0001 mm.

reactant | 3,5-dichloroiodobenzene | 0.094 mole, 25.5 g | ClC=1C=C(C=C(C1)Cl)I | C6H3Cl2I
reactant | triethylamine | 550 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-2-hydroxy-3-butyne | 0.14 mole, 12 g | CC(C)(C#C)O | C5H8O
reactant | triphenylphosphine | 0.0038 mole, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | CCOCC | C4H10O
catalyst | palladium (II) acetate | 0.0019 mole, 0.42 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(3,5-Dichlorophenyl)-3-methyl-1-butyn-3-ol | ClC=1C=C(C=C(C1)Cl)C#CC(C)(O)C | C11H10Cl2O
